US07259177B2
4-Chloromethyl-5-phenyl-2-p-tolyloxazole
6.4 g of 4-methyl-5-phenyl-2-p-tolyloxazole 3-oxide are dissolved in 50 ml of chloroform, 2.4 ml of phosphorus oxychloride are added and the mixture is, under reflux, heated at the boil for 30 minutes. The reaction mixture is cooled to 0° C., the pH is made slightly alkaline using ammonia and the mixture is extracted three times with in each case 100 ml of ethyl acetate. The combined organic phases are washed with water and dried over MgSO4, and the solvent then removed under reduced pressure. This gives 5.4 g of 4-chloromethyl-5-phenyl-2-p-tolyloxazole as a yellow solid. C17H14CINO (283.76), MS (ESI)=284 (M+H+), Rf(n-heptane:ethyl acetate)=7:1)=0.41

reactant | 4-methyl-5-phenyl-2-p-tolyloxazole 3-oxide | 6.4 g | CC=1[N+](=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C)[O-] | C17H15NO2
reactant | phosphorus oxychloride | 2.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | N | H3N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-5-phenyl-2-p-tolyloxazole | ClCC=1N=C(OC1C1=CC=CC=C1)C1=CC=C(C=C1)C | C17H14ClNO
